### PR TITLE
[Merged by Bors] - feat(Homology): bijection between `Ext`

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
For `F : C ⥤ D` fully faithful functor between abelian category, if one of the following
1: `C` has enough projectives and `F` preserve projective object
2: `C` has enough injectives and `F` preserve injective object
The induced map `Ext X Y n → Ext F(X) F(Y) n` is bijective.

---

- [x] depends on: #31046
- [x] depends on: #31696

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+
+variable {C : Type u} [Category.{v} C] [Abelian C]
+variable {D : Type u'} [Category.{v'} D] [Abelian D]
+
+variable (F : C ⥤ D) [F.Additive] [PreservesFiniteLimits F] [PreservesFiniteColimits F]
+
+open Ext
+
+set_option backward.isDefEq.respectTransparency false in
+lemma Functor.mapExt_bijective_of_preservesProjectiveObjects (h : F.FullyFaithful) [HasExt.{w} C]
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]: Here is a better syntax:
```lean
attribute [instance] Ext.subsingleton_of_projective

attribute [local simp] mapExactFunctor_comp mapExactFunctor_mk₀ mapExactFunctor_extClass in
lemma Functor.mapExt_bijective_of_preservesProjectiveObjects (h : F.FullyFaithful) [HasExt.{w} C]
    [HasExt.{w'} D] [EnoughProjectives C] [F.PreservesProjectiveObjects] (X Y : C) (n : ℕ) :
    Function.Bijective (F.mapExtAddHom X Y n) := by
  induction n generalizing X with
  | zero => simpa [Ext.mapExactFunctor₀] using Functor.FullyFaithful.map_bijective h X Y
  | succ n hn =>
    -- please add a `Nonempty` instance for `ProjectivePresentation X`
    let P : ProjectivePresentation X := (EnoughProjectives.presentation X).some
    let S := ShortComplex.mk _ _ (kernel.condition P.f)
    have : Projective S.X₂ := by dsimp; infer_instance
    have : Projective (S.map F).X₂ := by dsimp; infer_instance
    have hS : S.ShortExact := { exact := ShortComplex.exact_kernel P.f }
    exact AddMonoidHom.bijective_of_surjective_of_bijective_of_right_exact _ _ _ _
      (F.mapExtAddHom S.X₂ Y n) (F.mapExtAddHom S.X₁ Y n)
      (F.mapExtAddHom S.X₃ Y (n + 1)) (by cat_disch) (by cat_disch)
      ((ShortComplex.ab_exact_iff_function_exact ..).1
        (Ext.contravariant_sequence_exact₁' hS Y _ _ (add_comm 1 n)))
      ((ShortComplex.ab_exact_iff_function_exact ..).1
        (Ext.contravariant_sequence_exact₁' (hS.map F) (F.obj Y) _ _ (add_comm 1 n)))
      (hn _).surjective (hn _)
      (fun x₃ ↦ Ext.contravariant_sequence_exact₃ hS _ x₃ (by subsingleton) (by lia))
      (fun y₃ ↦ Ext.contravariant_sequence_exact₃ (hS.map F) _ y₃ (by subsingleton) (by lia))
```

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]: Instance added, how should I apply to this case? (What is the correct syntax?)

Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]: Then, we can do `let P : ProjectivePresentation X := Classical.arbitrary _`.

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+
+public import Mathlib.Algebra.Category.Grp.Zero
+public import Mathlib.Algebra.FiveLemma
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughProjectives
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.ExactSequences
+public import Mathlib.Algebra.Homology.DerivedCategory.Ext.Map
+public import Mathlib.Algebra.Homology.ShortComplex.Ab
+public import Mathlib.CategoryTheory.Preadditive.Projective.Preserves
+public import Mathlib.CategoryTheory.Preadditive.Injective.Preserves
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean:13]:
```suggestion
public import Mathlib.Algebra.Category.Grp.Zero
public import Mathlib.Algebra.FiveLemma
public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughInjectives
public import Mathlib.Algebra.Homology.DerivedCategory.Ext.EnoughProjectives
public import Mathlib.Algebra.Homology.DerivedCategory.Ext.Map
public import Mathlib.CategoryTheory.Preadditive.Injective.Preserves
public import Mathlib.CategoryTheory.Preadditive.Projective.Preserves
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
+/-
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean:1]: Could you rename the file `MapBijective.lean`?

File: Mathlib/CategoryTheory/Preadditive/Injective/Basic.lean [hunk 4]
```diff
@@ -66,6 +66,9 @@ class EnoughInjectives : Prop where
 
 attribute [inherit_doc EnoughInjectives] EnoughInjectives.presentation
 
+instance (priority := low) [EnoughInjectives C] (X : C) : Nonempty (InjectivePresentation X) :=
+  EnoughInjectives.presentation X
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Preadditive/Injective/Basic.lean]: Untested, but could you try this instead:
```lean
attribute [instance low] EnoughInjectives.presentation
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+public import Mathlib.CategoryTheory.Preadditive.Projective.Preserves
+
+/-!
+
+# Bijections Between Ext
+
+In this file, we prove for fully faithful exact functor `F : C ⥤ D`, either
+1. `F` preserves projective objects and `C` has enough projectives, or
+2. `F` preserves injective objects and `C` has enough injectives,
+the map between `Ext` induced by `F` is bijective.
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]:
```suggestion
In this file, we show that the maps between `Ext` induced
by a fully faithful exact functor `F : C ⥤ D` are bijective when either
1. `F` preserves projective objects and `C` has enough projectives, or
2. `F` preserves injective objects and `C` has enough injectives.
```

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+
+-/
+
+@[expose] public section
+
+universe w w' u u' v v'
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]: Traditionnally, we put `v` before `u` for universes related to categories:
```suggestion
universe w w' v v' u u'
```

File: Mathlib/CategoryTheory/Preadditive/Injective/Basic.lean (hunk 4 above)
Comment (Thmoas-Guan) [reply Mathlib/CategoryTheory/Preadditive/Injective/Basic.lean]: It works correctly.

File: Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+
+variable {C : Type u} [Category.{v} C] [Abelian C]
+variable {D : Type u'} [Category.{v'} D] [Abelian D]
+
+variable (F : C ⥤ D) [F.Additive] [PreservesFiniteLimits F] [PreservesFiniteColimits F]
+
+attribute [local simp] Ext.mapExactFunctor_comp Ext.mapExactFunctor_mk₀ Ext.mapExactFunctor_extClass
+
+attribute [local instance] Ext.subsingleton_of_projective in
+lemma Functor.mapExt_bijective_of_preservesProjectiveObjects (h : F.FullyFaithful) [HasExt.{w} C]
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/Ext/MapBijective.lean]:
```suggestion
lemma Functor.mapExt_bijective_of_preservesProjectiveObjects [F.Full] [F.Faithful] [HasExt.{w} C]
```
Then, you will have to change part of the proof.

**Comment by joelriou** [comment]
Thanks!

bors merge
